US05840732
ii) Synthesis of 5-carboethoxymethylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 0.70 g (1.73 mmol) of 5-carboethoxymethylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 20 ml of methanol, 0.20 ml of concentrated hydrochloric acid was added, followed by stirring, after which the solvent was distilled off. The residue was washed with diethyl ether to yield 0.74 g (96.8%, white solid) of the desired product.

reactant | 5-carboethoxymethylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 1.73 mmol, 0.70 g | C(=O)(OCC)C=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C18H19N3O4S2
reactant | hydrochloric acid | 0.20 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 5-carboethoxymethylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(=O)(OCC)C=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C18H19N3O4S2.ClH/c1-2-25-16(22)12-13-17(23)21(18(24)27-13)9-3-4-11-26-15-7-5-6-14-19-8-10-20(14)15;/h5-8,10,12H,2-4,9,11H2,1H3;1H
